US07196080B2
To an ethanol (37 ml) and water (13 ml) mixed solution of 1.42 g of (±)-trans-1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-2,5-dimethyl-4-(4-nitrophenyl)piperazine were added 0.16 g of ammonium chloride and 1.66 g of reduced iron, followed by 0.5 hour of heating under reflux. The reaction solution was filtered through celite and the filtrate was concentrated under reduced pressure. An aqueous saturated sodium hydrogen carbonate solution was added to thus obtained residue, followed by extraction with chloroform. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate, and thereafter, the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform-methanol) and the obtained compound was treated with a 4M hydrogen chloride/ethyl acetate solution to form its salt. Then, the solvent was evaporated and the residue was washed with ethyl acetate to obtain 582 mg of (±)-trans-4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-2,5-dimethylpiperazin-1-yl}aniline hydrochloride hydrate as pale yellow crystals.

reactant | ethanol | 37 ml | C(C)O | C2H6O
reactant | (±)-trans-1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-2,5-dimethyl-4-(4-nitrophenyl)piperazine | 1.42 g | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1[C@H](CN([C@@H](C1)C)C1=CC=C(C=C1)[N+](=O)[O-])C | C26H28N4O5
reactant | ammonium chloride | 0.16 g | [Cl-].[NH4+]
solvent | water | 13 ml | O | H2O
product | (±)-trans-4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-2,5-dimethylpiperazin-1-yl}aniline hydrochloride hydrate | 582 mg | O.Cl.COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1C[C@@H](N(C[C@H]1C)C1=CC=C(N)C=C1)C | InChI=1S/C26H30N4O3.ClH.H2O/c1-17-16-30(18(2)15-29(17)21-11-9-20(27)10-12-21)26(31)23-7-5-6-22(28-23)19-8-13-24(32-3)25(14-19)33-4;;/h5-14,17-18H,15-16,27H2,1-4H3;1H;1H2/t17-,18+;;/m0../s1
